US04840954
0.8 g of carbon tetrachloride is added to 3.7 g (0.15 mole) of magnesium filings in 9.3 ml of ethanol and, when the evolution of hydrogen has started, a mixture of 23.9 g (0.15 mole) of diethyl malonate, 18.5 ml of ethanol and 58 ml of toluene is added dropwise at 50°-60° C. The mixture is subsequently stirred at this temperature for 1 hour and cooled to -5° to -10° C. and a solution of 31 g (0.14 mole) of 2,6-dichloro-5-fluoro-pyridine-3-carbonyl chloride in 14.5 ml of toluene is slowly added dropwise. Thereafter, the mixture is stirred at 0° for 1 hour, brought to room temperature overnight and warmed at 40°-50° C. for a further 2 hours. A mixture of 60 ml of water and 9 ml of concentrated sulfuric acid is added to the reaction mixture, while cooling with ice, and the organic phase is separated off. The aqueous phase is extracted with toluene, the combined organic extract is washed with saturated sodium chloride solution and dried with sodium sulphate and the solvent is stripped off. 50.1 g of diethyl (2,6-dichloro-5-fluoro-pyridine-3-carbonyl)-malonate are obtained as a crude product. This product is heated under reflux for 10 hours, after addition of 50 ml of water and 0.1 g of 4-toluenesulfonic acid, the mixture is extracted with methylene chloride, the extract is dried with sodium sulphate and concentrated, the residue is stirred with a little ether and the crystals are isolated.

reactant | magnesium | 0.15 mole, 3.7 g | [Mg] | Mg
reactant | hydrogen | [H][H] | H2
reactant | diethyl malonate | 0.15 mole, 23.9 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 2,6-dichloro-5-fluoro-pyridine-3-carbonyl chloride | 0.14 mole, 31 g | ClC1=NC(=C(C=C1C(=O)Cl)F)Cl | C6HCl3FNO
reactant | sulfuric acid | 9 ml | S(O)(O)(=O)=O | H2O4S
solvent | ethanol | 9.3 ml | C(C)O | C2H6O
solvent | toluene | 14.5 ml | C1(=CC=CC=C1)C | C7H8
catalyst | carbon tetrachloride | 0.8 g | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | toluene | 58 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 18.5 ml | C(C)O | C2H6O
solvent | water | 60 ml | O | H2O
product | diethyl (2,6-dichloro-5-fluoro-pyridine-3-carbonyl)-malonate | 50.1 g | ClC1=NC(=C(C=C1C(=O)C(C(=O)OCC)C(=O)OCC)F)Cl | C13H12Cl2FNO5
